US07771919B2
12-methoxy-11,13-dioxa-12-bora-dispiro[4.0.4.3]tridecane was prepared as follows. 5 g of bicyclopentyl-1,1′-diol was dissolved in 50 ml of trimethyl borate. The reaction mixture was stirred at room temperature under nitrogen for 2 days. Excess solvent was removed in a rotary evaporator and the residue was purified by vacuum distillation. Yield of the 12-methoxy-11,13-dioxa-12-bora-dispiro[4.0.4.3]tridecane was 5.27 g (85%) as a liguid with b.p. 68-70° C. 1H NMR (500 MHz, C6D6, TMS): δ 1.20-1.90 (m, 16 H, CH2), 3.20 (s, 3 H, MeO).

reactant | bicyclopentyl-1,1′-diol | 5 g | C1(CCCC1)(C1(CCCC1)O)O | C10H18O2
reactant | trimethyl borate | 50 ml | B(OC)(OC)OC | C3H9BO3
product | 12-methoxy-11,13-dioxa-12-bora-dispiro[4.0.4.3]tridecane | COB1OC2(C3(CCCC3)O1)CCCC2 | C11H19BO3
